### PR TITLE
Add Erdős Problem 1187 (monochromatic progressions of primes), link the formal proof

### LINKED ISSUE #6289: Erdős Problem 1187
### What is the Erdős problem?

https://www.erdosproblems.com/1187

Let $k\geq 3$. Is it true that, in any finite colouring of the integers, there are monochromatic arithmetic progressions of primes of length $k$? Are there monochromatic arithmetic progressions of length $k$ whose common difference is a prime?

Status: solved (first question yes, by the Green–Tao theorem; second question trivially no, colouring by residues mod 4). A formal proof exists in plby/lean-proofs (`Erdos1187.erdos_1187`, Codex and GPT-5.6 Sol), building on its formalisation of the Green–Tao theorem. Related to #219.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6289.

### What changed
Adds `FormalConjectures/ErdosProblems/1187.lean` with:
- `erdos_1187.parts.i` (`research solved`, `answer(True)`): for every `k ≥ 3` and every finite colouring of `ℤ` there is a monochromatic `k`-term arithmetic progression of primes (a consequence of Green–Tao [GrTa08]), stated with `Set.IsAPOfLength`.
- `erdos_1187.parts.ii` (`answer(False)`): monochromatic `k`-term progressions with prime common difference need not exist (colour by residues mod `4`), stated with `Set.IsAPOfLengthWith`.

Both are linked to plby/lean-proofs `Erdos1187.erdos_1187` (Codex and GPT-5.6 Sol). Its import closure is 212 Mathlib-only files and contains complete formalisations of Szemerédi's theorem and of the Green–Tao theorem (`Wikipedia.GreenTao.green_tao`, the same development already linked from `219.lean`), combined with Hales–Jewett.

### How checked
- Rebuilt all 212 files of plby's closure against this repo's Mathlib: `#print axioms Erdos1187.erdos_1187` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`. (One file, `Wikipedia/SzemeredisTheorem/FormalConjectures139.lean`, is a verbatim copy of this repo's `Set.IsAPOfLength*` definitions and was replaced by an import of `FormalConjecturesForMathlib.Combinatorics.AP.Basic` so that both can be loaded together.)
- Bridge compiled against both statements on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Set

namespace Bridge1187

/-- The arithmetic progression `{a + d j | j < k}` as a set of integers, for `a d : ℕ`, `0 < d`. -/
lemma isAPOfLength_range {a d k : ℕ} (hd : 0 < d) :
    ((((Finset.range k).image fun j : ℕ => ((a + d * j : ℕ) : ℤ)) : Finset ℤ) : Set ℤ).IsAPOfLength k := by
  refine ⟨(a : ℤ), (d : ℤ), ?_, ?_⟩
  · rw [ENat.card_coe_set_eq, Set.encard_coe_eq_coe_finsetCard,
      Finset.card_image_of_injective _ (fun i j h => ?_), Finset.card_range]
    have : (a + d * i : ℕ) = a + d * j := by exact_mod_cast h
    exact Nat.eq_of_mul_eq_mul_left hd (by omega)
  · ext x
    simp only [Finset.coe_image, Finset.coe_range, Set.mem_image, Set.mem_Iio, Set.mem_ofPred_eq,
      smul_eq_mul]
    constructor
    · rintro ⟨j, hj, rfl⟩
      exact ⟨j, by exact_mod_cast hj, by push_cast; ring⟩
    · rintro ⟨n, hn, rfl⟩
      exact ⟨n, by exact_mod_cast hn, by push_cast; ring⟩

theorem erdos_1187_i_bridge : type_of% Erdos1187.erdos_1187.parts.i := by
  show True ↔ _
  simp only [true_iff]
  intro k hk κ _ c
  obtain ⟨a, d, hd, hprime, γ, hγ⟩ := Erdos1187Plby.erdos_1187.1 k hk κ c
  refine ⟨(((Finset.range k).image fun j : ℕ => ((a + d * j : ℕ) : ℤ)) : Finset ℤ),
    isAPOfLength_range hd, ?_, γ, ?_⟩
  · intro n hn
    obtain ⟨j, hj, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hn)
    exact ⟨a + d * j, hprime j (Finset.mem_range.1 hj), rfl⟩
  · intro n hn
    obtain ⟨j, hj, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hn)
    exact hγ j (Finset.mem_range.1 hj)

theorem erdos_1187_ii_bridge : type_of% Erdos1187.erdos_1187.parts.ii := by
  show False ↔ _
  simp only [false_iff]
  intro h
  refine Erdos1187Plby.erdos_1187.2 3 le_rfl fun κ _ c => ?_
  obtain ⟨a, p, S, hp, ⟨-, hS⟩, γ, hγ⟩ := h 3 le_rfl κ c
  refine ⟨a, p, hp, γ, fun j hj => ?_⟩
  apply hγ
  rw [hS]
  exact ⟨j, by exact_mod_cast hj, by push_cast; ring⟩

end Bridge1187
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1187»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1187.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1187.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
